US06312662B1
A solution of N9-cyclohexylethyl-8-methoxycarbonyladenine (1 mmol) in tetrahydrofuran was treated with lithium aluminum hydride (1 mmol) at 0° C. for 1 h. Extraction and chromatography give N9-cyclohexylethyl-8-hydroxymethyladenine as a white solid.

reactant | N9-cyclohexylethyl-8-methoxycarbonyladenine | 1 mmol | C1(CCCCC1)CCN1C2=NC=NC(=C2N=C1C(=O)OC)N | C15H21N5O2
reactant | lithium aluminum hydride | 1 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N9-cyclohexylethyl-8-hydroxymethyladenine | C1(CCCCC1)CCN1C2=NC=NC(=C2N=C1CO)N | C14H21N5O
